US04293702
A mixture (11.30 g, 0.05 mole) of 2-bromo-4-chlorobenzothiazole and 2,4-dichlorobenzothiazole and 94% sodium hydroxide (2.34 g, 0.055 mole) in isobutanol (100 c.c.) was heated under reflux for 1 hour. Water was added and the alcohol was distilled azeotropically together with water. The resulting oily substance was extracted with chloroform, and the chloroform layer was washed with water. The solvent was then removed under reduced pressure to obtain 11.70 g of 2-isobutoxy-4-chlorobenzothiazole as a yellow viscous liquid. Yield 96.8%, purity 97.2%, b.p. 103.5°-105° C./0.15 mmHg.

reactant | 2-bromo-4-chlorobenzothiazole | 0.05 mole, 11.30 g | BrC=1SC2=C(N1)C(=CC=C2)Cl | C7H3BrClNS
reactant | 2,4-dichlorobenzothiazole | ClC=1SC2=C(N1)C(=CC=C2)Cl | C7H3Cl2NS
reactant | sodium hydroxide | 0.055 mole, 2.34 g | [OH-].[Na+]
reactant | Water | O | H2O
reactant | isobutanol | C(C(C)C)O | C4H10O
product | 2-isobutoxy-4-chlorobenzothiazole | 11.70 g, Yield 96.8% | C(C(C)C)OC=1SC2=C(N1)C(=CC=C2)Cl | C11H12ClNOS
